US04997836
To a solution of oxalyl chloride (360 mg) in methylene chloride (5 ml) is added dropwise at -78° C. a (340 mg) solution of dimethyl sulfoxide (340 mg) in methylene chloride (2 ml), and the mixture is stirred for 10 minutes. To the resulting reaction mixture is added dropwise a solution of 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -4-(3,4,5-trimethoxybenzyl)piperazine-2-methanol (750 mg) in methylene chloride (2 ml), then the mixture is stirred for 15 minutes. To the reaction mixture is added triethylamine (1 g), then the reaction temperature is raised up to room temperature. The reaction mixture is poured into ice-water, followed by extraction with methylene chloride. The organic layer is washed with water, dried and concentrated under reduced pressure. The concentrate is dissolved in methanol (10 ml). To the solution is added diethylamine hydrochloride (1.4 g), and the mixture is stirred for 3 hours at 50° C. To the reaction mixture is added, after cooling, sodium cyanoborohydride (90 mg), followed by stirring for one hour at room temperature. The reaction mixture is poured into ice-water, followed by extraction with methylene chloride. The organic layer is washed with water, dried and concentrated under reduced pressure. The concentrate is purified by means of a silica gel column chromatography (eluent:ethyl acetate-methanol=9:1) to give 2-diethylaminomethyl-1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -4-(3,4,5-trimethoxybenzyl)piperazine (230 mg). This product is converted to its hydrochloride, followed by recrystallization from ethanol to give colorless crystals, m.p. 157-160° C.

reactant | oxalyl chloride | 360 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 340 mg | CS(=O)C | C2H6OS
reactant | 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -4-(3,4,5-trimethoxybenzyl)piperazine-2-methanol | 750 mg | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2C(CN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC)CO)C1)OC | C29H38N2O7
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-diethylaminomethyl-1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -4-(3,4,5-trimethoxybenzyl)piperazine | 230 mg | C(C)N(CC)CC1N(CCN(C1)CC1=CC(=C(C(=C1)OC)OC)OC)C(=O)C=1CCCC2=C(C1)C=C(C(=C2)OC)OC | C33H47N3O6
